US04764525
A solution of 10.0 g (54.9 mmol) methyl 4-methoxysalicylate in 35 ml of dimethyl sulfoxide is treated dropwise with 7.4 g (65.9 mmol) of potassium t-butoxide in 75 ml of dimethylsulfoxide. The resulting pale yellow solution is stirred at 25° C. under nitrogen for 70 minutes. Then 19.7 g (159.8 mmol) of 2-bromopropane is added and the resulting mixture is stirred at 25° C. for 70 hours. The reaction mixture is poured onto 400 ml of H2O and the resulting solution is extracted with diethyl ether (3×125 ml). The combined extracts are washed with aqueous saturated NaCl, dried (Na2SO4) and concentrated in vacuo to give 8.5 g of the crude product as a yellow oil. Flash chromatography (SiO2, 18×65 cm, 15% ethyl acetate-hexane) gives 7.45 g (12.31 g theoretical, 61%) of analytically pure methyl 4-methoxy-2-(1-methylethoxy)benzoate as a colorless oil.

reactant | methyl 4-methoxysalicylate | 54.9 mmol, 10.0 g | COC=1C=C(C(C(=O)OC)=CC1)O | C9H10O4
reactant | potassium t-butoxide | 65.9 mmol, 7.4 g | CC(C)([O-])C.[K+]
reactant | 2-bromopropane | 159.8 mmol, 19.7 g | BrC(C)C | C3H7Br
reactant | H2O | 400 ml | O | H2O
solvent | dimethyl sulfoxide | 35 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 75 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | methyl 4-methoxy-2-(1-methylethoxy)benzoate | COC1=CC(=C(C(=O)OC)C=C1)OC(C)C | C12H16O4
